US06376491B1
To a solution of 4-(3-bromo-propoxy)-3-cyclopropyl-benzofuran-2-carboxylic acid ethyl ester (92 mg) in ethanol (4 ml) was added 3-aminomethylpyridine (500 μl) and heated at 70° C. overnight. The mixture was diluted with ethyl acetate (10 ml) and washed with saturated aqueous ammonium chloride solution (5 ml) and water (5 ml), then dried over anhydrous sodium sulfate, concentrated in vacuo to dryness. The residue was purified by silica gel column chromatography developed by dichloromethane-methanol to give 3-cyclopropyl-4-{3-[(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-carboxylic acid ethyl ester as a pale yellow oil (108 mg). ESI-MS: m/z 395 (MH+); 1H-NMR (CDCl3): δ 0.95-1.08 (4H, m), 1.44 (3H, t, J=7.3 Hz), 2.10 (2H, quintet, J=6.3 Hz), 2.54-2.60 (1H, m), 2.89 (2H, t, J=6.3 Hz), 3.85 (2H, s), 4.17 (2H, t, J=6.3 Hz), 4.45 (2H, q, J=7.3 Hz), 6.63 (1H, d, J=7.9 Hz), 7.13 (1H, d, J=7.9 Hz), 7.21-7.34 (2H, m), 7.68 (1H, d, J=7.9 Hz), 8.48 (1H, dd, J=1.7 Hz, 4.9 Hz), 8.56 (1H, d, J=1.7 Hz).

reactant | 4-(3-bromo-propoxy)-3-cyclopropyl-benzofuran-2-carboxylic acid ethyl ester | 92 mg | C(C)OC(=O)C=1OC2=C(C1C1CC1)C(=CC=C2)OCCCBr | C17H19BrO4
reactant | 3-aminomethylpyridine | 500 μl | NCC=1C=NC=CC1 | C6H8N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-cyclopropyl-4-{3-[(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-carboxylic acid ethyl ester | 108 mg | C(C)OC(=O)C=1OC2=C(C1C1CC1)C(=CC=C2)OCCCNCC=2C=NC=CC2 | C23H26N2O4
